US08044068B2
To a solution of 50% aqueous dimethyl amine (0.15 g) in ethanol (5 mL) were added 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine (0.25 g) and triethylamine (0.12 g) at room temperature, and the mixture was stirred for 2 h. The reaction mixture was concentrated under reduced pressure and diluted with chloroform and water, and then the aqueous layer was extracted with chloroform. The organic layer was washed with 1 M hydrochloric acid and saturated brine and then dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure and crystallized with diethyl ether to obtain 2-chloro-N,N,6-trimethylthieno[3,2-d]pyrimidin-4-amine (0.16 g). (2) To a mixture of 2-chloro-N,N,6-trimethylthieno[3,2-d]pyrimidin-4-amine (0.150 g), Pd2(dba)3 (0.033 g), (±)-BINAP (0.067 g), 1-((3R,4R)-3-amino-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.26 g), and 1,4-dioxane (8 mL) was added sodium t-butoxide (0.21 g) under nitrogen atmosphere, and the mixture was stirred at 60° C. for 5 h. The reaction mixture was diluted with ethyl acetate and water, then the interlayer was removed by Celite filtration, and the organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol, and NH silica gel, ethyl acetate) to obtain light yellow amorphous 1-((3R,4R)-3-(4-dimethylamino-6-methylthieno[3,2-d]pyrimidin-2-ylamino)-4-hydroxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.097 g).

reactant | dimethyl amine | 0.15 g | CNC | C2H7N
reactant | 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine | 0.25 g | ClC=1N=C(C2=C(N1)C=C(S2)C)Cl | C7H4Cl2N2S
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-chloro-N,N,6-trimethylthieno[3,2-d]pyrimidin-4-amine | 0.16 g | ClC=1N=C(C2=C(N1)C=C(S2)C)N(C)C | C9H10ClN3S
